US05270309
Treatment of ethyl 7-ethenyl-4-oxo-1,4-dihydroquinoline-2-carboxylate (0.2 g) with sodium hydroxide (0.131 g), as described in Example 1c, gave 7-ethenyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (0.135 g), mp 281° C. (decomp.), δ (360 MHz, DMSO-d6), 5.47 and 6.00 (2H, 2d, =CH2), 6.61 (1H, s, 3-H), 6.84 (1H, 2d, CH=), 7.54 (1H, dd, 6-H), 7.94 (1H, d, 8-H), 8.05 (1H, d, 5-H) and 11.90 (1H, bs, NH), (Found: C, 63.76; H, 4.48; N, 6.12%, C12H9NO3. 0.6 H2O requires C, 63.77; H, 4.55; N, 6.20%).

reactant | ethyl 7-ethenyl-4-oxo-1,4-dihydroquinoline-2-carboxylate | 0.2 g | C(=C)C1=CC=C2C(C=C(NC2=C1)C(=O)OCC)=O | C14H13NO3
reactant | sodium hydroxide | 0.131 g | [OH-].[Na+]
solvent | H2O | O | H2O
product | 7-ethenyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 0.135 g | C(=C)C1=CC=C2C(C=C(NC2=C1)C(=O)O)=O | C12H9NO3
